US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-(2,3-difluorophenyl)-1H-pyrrol-2(5H)-one (E26)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-4-hydroxy-1H-pyrrol-2(5H)-one (0.12 g, 0.33 mmol) and cyclohexylamine (0.53 ml 4.62 mmol) according to method 7 described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-4-hydroxy-1H-pyrrol-2(5H)-one | 0.33 mmol, 0.12 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=C(C(=CC=C2)F)F)O)=O | C17H11F2N3O2
reactant | cyclohexylamine | 4.62 mmol, 0.53 ml | C1(CCCCC1)N | C6H13N
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-(2,3-difluorophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=C(C(=CC=C2)F)F)NC2CCCCC2)=O | C23H22F2N4O
